US07115634B2
N-(3,3-diphenylpropyl)-N-(4-piperidinyl)-N′-[3-(trifluoromethyl)phenyl]urea (C28H30F3N30, M=481.57)
1.6 ml (21 mmol, 20 eq.) of trifluoroacetic acid is added to a solution of tert-butyl 4-((3,3-diphenylpropyl){[3-(trifluoromethyl)anilino]carbonyl}amino)-1-piperidine carboxylate (600 mg, 1.04 mmol) in dichloromethane. The reaction medium is agitated for 90 minutes then concentrated. Dichloromethane is added and the organic phase is washed with a saturated solution of sodium bicarbonate, dried over magnesium sulphate, filtered and concentrated under vacuum in order to isolate 490 mg (yield=98%) of a white foam.

reactant | trifluoroacetic acid | 21 mmol, 1.6 ml, 20 eq. | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-((3,3-diphenylpropyl){[3-(trifluoromethyl)anilino]carbonyl}amino)-1-piperidine carboxylate | 1.04 mmol, 600 mg | C1(=CC=CC=C1)C(CCN(C1CCN(CC1)C(=O)OC(C)(C)C)C(=O)NC1=CC(=CC=C1)C(F)(F)F)C1=CC=CC=C1 | C33H38F3N3O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(3,3-diphenylpropyl)-N-(4-piperidinyl)-N′-[3-(trifluoromethyl)phenyl]urea | 490 mg, yield=98% | C1(=CC=CC=C1)C(CCN(C(=O)NC1=CC(=CC=C1)C(F)(F)F)C1CCNCC1)C1=CC=CC=C1 | C28H30F3N3O
